US07935699B2
A solution of (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide (330 mg, 0.76 mmol) in dioxane (4 mL) was treated with a 9 N aqueous sulfuric acid solution (2 mL). The resulting solution was then heated at 110° C. for 16 h. The reaction was then cooled and diluted with water (75 mL) and extracted with a chloroform/methanol solution (3:2, 2×50 mL) and then concentrated. The resulting residue was then dissolved in acetonitrile and concentrated with silica gel (3 g) and purified on Biotage Flash chromatography system (40S column, silica gel, 80% ethyl acetate/hexanes) to afford (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-propionic acid (154 mg, 71%) as a yellow viscous oil: [α]30589=−48.3° (c=0.18, methylene chloride); ES-HRMS m/e calcd for C14H17O2SCl (M+Na)+ 307.0530, observed 307.0530; 1H NMR (300 MHz, DMSO-d6) δ 1.47-2.16 (m, 9H, CH and 4×CH2), 2.47 (s, 3H, SCH3), 3.40 (t, J=7.3 Hz, 1H, ArCHCO), 7.25 (s, 2H, Ar), 7.34 (s, 1H, Ar), 12.41 (s, 1H, CO2H).

reactant | (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide | 0.76 mmol, 330 mg | ClC=1C=C(C=CC1SC)[C@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)CC1CCC1 | C24H30ClNO2S
reactant | sulfuric acid | 9 N, 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 75 mL | O | H2O
product | (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-propionic acid | 154 mg, 71% | ClC=1C=C(C=CC1SC)[C@H](C(=O)O)CC1CCC1 | C14H17ClO2S
